US07732446B1
As described in example 1, 91 mg of {4-[benzyl-(2-dimethylamino-ethyl)-carbamoyl]-6,8-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester was treated with HCl in EtOAc to give 74 mg (>100%) of 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid benzyl-(2-dimethylamino-ethyl)-amide MS: APCI (M+H) calc'd for C24H30N4O3+H 423.5; found 423.2.

reactant | {4-[benzyl-(2-dimethylamino-ethyl)-carbamoyl]-6,8-dimethoxy-isoquinolin-1-ylmethyl}-carbamic acid tert-butyl ester | 91 mg | C(C)(C)(C)OC(NCC1=NC=C(C2=CC(=CC(=C12)OC)OC)C(N(CCN(C)C)CC1=CC=CC=C1)=O)=O | C29H38N4O5
reactant | HCl | Cl | ClH
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 1-aminomethyl-6,8-dimethoxy-isoquinoline-4-carboxylic acid benzyl-(2-dimethylamino-ethyl)-amide | 74 mg, >100% | C(C1=CC=CC=C1)N(C(=O)C1=CN=C(C2=C(C=C(C=C12)OC)OC)CN)CCN(C)C | C24H30N4O3
